US08183275B2
A solution of 2-{4-[2-(4,5-diiodo-1H-imidazol-2-yl)ethyl]phenyl}pyridine (11.2 g, 22.4 mmol) and sodium sulfite (3.1 g, 24.7 mmol) in ethanol (200 mL) and water (200 mL) was heated at 100° C. for 2 days. The reaction mixture was concentrated to half its original volume and partitioned between ethyl acetate and water. The organic phase was separated and concentrated in vacuo to afford 2-{4-[2-(4-iodo-1H-imidazol-2-yl)ethyl]phenyl}pyridine, which was used without further purification.

reactant | 2-{4-[2-(4,5-diiodo-1H-imidazol-2-yl)ethyl]phenyl}pyridine | 22.4 mmol, 11.2 g | IC=1N=C(NC1I)CCC1=CC=C(C=C1)C1=NC=CC=C1 | C16H13I2N3
reactant | sodium sulfite | 24.7 mmol, 3.1 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 2-{4-[2-(4-iodo-1H-imidazol-2-yl)ethyl]phenyl}pyridine | IC=1N=C(NC1)CCC1=CC=C(C=C1)C1=NC=CC=C1 | C16H14IN3
